US05171863
4-Hydroxymethyl-2-triethylsilylfuran (Compound 1)
Sodium borohydride (353 mg, 0.93 mmol) was added portionwise to a solution of 2-triethylsilyl-4-furaldehyde (1.64 g, 7.79 mmol) in methanol (10 ml) at 0°. After 1 hour, most of the methanol was evaporated and the residue dissolved in a minimum amount of dilute hydrochloric acid. Extraction (ethyl acetate), drying (magnesium sulfate) and evaporation gave an oil, which was purified by flash chromatography on silica using 20% ethyl ether/hexane. Fractions with Rf of about 0.07 (10% ethyl ether/hexane) gave after evaporation the title alcohol as a colorless oil.

reactant | Sodium borohydride | 0.93 mmol, 353 mg | [BH4-].[Na+]
reactant | 2-triethylsilyl-4-furaldehyde | 7.79 mmol, 1.64 g | C(C)[Si](C=1OC=C(C1)C=O)(CC)CC | C11H18O2Si
solvent | methanol | 10 ml | CO | CH4O
product | 4-Hydroxymethyl-2-triethylsilylfuran | OCC=1C=C(OC1)[Si](CC)(CC)CC | C11H20O2Si
